US05739132
To 87.44 g of 2-aminoindane dissolved in 800 ml of methylene chloride was added 66.43 g of triethylamine, and 102.8 g of n-butylsulfonyl chloride was added dropwise thereto under ice cooling. The mixture was stirred at the same temperature for 1 hour. The reaction mixture was washed with diluted hydrochloric acid and dried, and then the solvent was removed. The resulting crystals were recrystallized from isopropyl ether to obtain 151.12 g of 2-n-butylsulfonylaminoindane.

reactant | 2-aminoindane | 87.44 g | NC1CC2=CC=CC=C2C1 | C9H11N
reactant | triethylamine | 66.43 g | C(C)N(CC)CC | C6H15N
reactant | n-butylsulfonyl chloride | 102.8 g | C(CCC)S(=O)(=O)Cl | C4H9ClO2S
solvent | methylene chloride | 800 ml | C(Cl)Cl | CH2Cl2
product | 2-n-butylsulfonylaminoindane | 151.12 g | C(CCC)S(=O)(=O)NC1CC2=CC=CC=C2C1 | C13H19NO2S
